* D:\4 WORKSPACE\24-OBC\OBC\0101 Modeling and Simulation\0001 LT SPICE SIMULATION\Trafo\Trafo.asc
V5 Vin 0 PULSE(-400 400 0 1u 1u 5u 10u) AC 1 0 Rser=1e-9 Cpar=0
L§W2 0 Vsec 1u Ipk=30 Rser=0.00001
L§W1 0 Vpri 1u Ipk=30 Rser=0.00001
Lm Vpri 0 0.00001
Rc Vpri 0 0.1
Rp N001 Vin 0.001
Lp N001 Vpri 1e-9
Rs N002 Vsec 1
Ls N002 Vo 1e-9
* Real Trafo Model
.tran 0 10 0 1e-3
K1 W1 W2 1
* Lpri/Lsec = (Npri/Nsec)²
.backanno
.end
